Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o man with history of CAD s/p CABG x3, HTN presented with 
chest pain. The patient reported that ___ years ago he had episode 
of chest tightness and had a positive exercise tolerance test at 
that time. He had elevated BPs and underwent CABG x3 
(___), with LIMA-LAD, SVG-OM1 and SVG-PDA. 
 He reported that several years after he had his CABG he started 
experiencing chest pain occasionally, less than 1 time per week 
and very brief episodes lasting seconds. However, his pain had 
recently changed, and in the 2 weeks prior to admission he had 
been having episodes ___ times per day that lasted for ___ 
hours. The pain had similar characteristics as the pain before 
his CABG, and was ___ in intensity. The pain was in the left 
hemithorax around the nipple, and not radiated or associated 
with respiration, and had no associated shortness of breath, 
nausea, vomiting, or lightheadedness. His pain occurred with his 
activities of daily living or sometimes when he was at rest. He 
went to ___ 3 weeks prior to admission because of 
the pain and they did an exercise tolerance test which was 
"normal" according to him. He was also seen at ___ 3 weeks 
ago because of "dizziness" and they decided to discontinue his 
Donepezil because of this.
 On ___ he came to our ER because the pain was worse, 
approximately ___ but with similar characteristics as before. 
He left without been seen because of the long wait. He came 
again on ___ because of similar pain.   
In the ED initial vitals were: 97.2 73 158/79 16 100% RA 
EKG: NSR at 61 bpm; NA/NI; TWI V1 (old)
Labs/studies notable for: Trop-T <0.01, proBNP 162; BMP, CBC wnl
- CXR: No acute cardiopulmonary process.
- UA negative.
Patient was given: 
- ___ 06:41 PO Aspirin 324 mg
Vitals on transfer: 98.2 59 143/59 15 100% RA  

On the floor the patient is free of any chest pain and is 
comfortably breathing room air. His vital signs are stable
 
Past Medical History:
Benign prostatic hypertrophy
Crohn's disease
Hypertension
Macular degeneration
Osteoporosis
Osteoarthritis (back)
Back surgery with rod (as teenager)
Bilateral rotator cuffs
Bilateral carpal tunnel release
Skin cancer excised from lower lip
 
Social History:
___
Family History:
Mother had some type of cervical or perhaps bladder cancer. 
There is no family history of colon cancer.  Father and one 
sister had a history of alcoholism.  His other sister is 
otherwise well.  He has three healthy children ages ___, ___, and 
___ along with four grandchildren, all in good health.
 
Physical Exam:
VS: T=97.7 BP=133/58mmHg HR=58x' RR=18x' O2 SAT 100% RA 
GENERAL: Well appearing man in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP not visualized at 45 degrees.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. Ejection murmur ___ in right sternal 
border, not radiated. No rubs/gallops. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
___ 06:38AM BLOOD WBC-8.8 RBC-4.69 Hgb-14.3 Hct-44.3 MCV-95 
MCH-30.5 MCHC-32.3 RDW-13.8 RDWSD-47.7* Plt ___
___ 06:38AM BLOOD Neuts-69.2 Lymphs-17.0* Monos-9.2 Eos-3.4 
Baso-1.0 Im ___ AbsNeut-6.12* AbsLymp-1.50 AbsMono-0.81* 
AbsEos-0.30 AbsBaso-0.09*
___ 06:38AM BLOOD Glucose-114* UreaN-28* Creat-1.2 Na-139 
K-4.2 Cl-101 HCO3-23 AnGap-19
___ 12:45PM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:38AM BLOOD cTropnT-<0.01
___ 06:38AM BLOOD proBNP-162
 
Brief Hospital Course:
Mr. ___ is an ___ y/o patient with a history of Alzheimer's 
dementia, IBD, HTN, CAD (s/p CABGx3 LIMA-LAD, SVG-OM1, SVG-PDA) 
who presented with chest pain with negative cardiac biomarkers 
and without new EKG changes. The patient did not have recurrence 
of chest pain. Of note, the patient recently presented to 
___ for chest pain and underwent nuclear stress 
testing on ___. These results were reviewed. The patient 
exercised for 7 minutes on ___ protocol with Max HR 136 and 
Max BP 180/68. Max work load was ___ METs. Nuclear imaging showed 
homogenous myocardial uptake and no fixed or reversible defects. 
He had no chest pain and no ischemic changes on ECG. The 
etiology of the patient's chest discomfort is unclear, but based 
on these findings it not related to cardiac ischemia.

TRANSITIONAL ISSUES:
- No medication changes.
- Please follow up patient's chest pain.
- Code: Full
- Contact: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 10 mg PO DAILY 
2. Memantine 10 mg PO BID 
3. Metoprolol Succinate XL 25 mg PO QHS 
4. Simvastatin 20 mg PO QPM 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY  
2.  Memantine 10 mg PO BID  
3.  Metoprolol Succinate XL 25 mg PO QHS  
4.  Simvastatin 20 mg PO QPM  
5.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
- Chest pain 
 
SECONDARY: 
- Hypertension 
- Alzheimer's dementia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were having chest pain. We 
did several tests, and fortunately did not find any problems 
with your heart that cause the chest pain. Your chest pain 
resolved. We reviewed your tests from ___, and 
these results were reassuringly normal.

Please continue to take your medications as prescribed and 
follow up with your doctors.

___ wish you the best of health.

Sincerely,

Your ___ Team

We wish you the best of health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___